US06573293B2
3-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic Acid (2-diethylamino-ethyl)amide
5-Bromo-1,3-dihydroindol-2-one (1.43 g, 6.8 mmol) was condensed with 3-formyl-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic acid (2-diethylaminoethyl)amide (1.97 g) to give 2.2 g (67%) of the title compound as a yellow-orange solid.

reactant | 5-Bromo-1,3-dihydroindol-2-one | 6.8 mmol, 1.43 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 3-formyl-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic acid (2-diethylaminoethyl)amide | 1.97 g | C(C)N(CCNC(=O)C=1NC(=C2CCCCC12)C=O)CC | C16H25N3O2
product | 3-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-2H-isoindole-1-carboxylic Acid (2-diethylamino-ethyl)amide | 2.2 g, 67% | C(C)N(CCNC(=O)C=1NC(=C2CCCCC12)C=C1C(NC2=CC=C(C=C12)Br)=O)CC | C24H29BrN4O2
